US04282246
5-Pentylthiofuran-3-carboxylic Acid
By the same procedure, an equivalent amount of 1-hexanethiol, 1-butanethiol, 2-butanethiol, 1-propanethiol or 2-propanethiol is reacted with 5-bromofuran-3-carboxylic acid to produce, respectively:

reactant | 1-hexanethiol | C(CCCCC)S | C6H14S
reactant | 1-butanethiol | C(CCC)S | C4H10S
reactant | 2-butanethiol | CC(CC)S | C4H10S
reactant | 1-propanethiol | C(CC)S | C3H8S
reactant | 2-propanethiol | CC(C)S | C3H8S
reactant | 5-bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
product | 5-Pentylthiofuran-3-carboxylic Acid | C(CCCC)C1=CC(=CS1)C(=O)O | C10H14O2S
